* CML LO Buffer (Current Mode Logic) for 30GHz Reverse Isolation
* IHP SG13G2 PDK

.subckt cml_buffer IN_P IN_N OUT_P OUT_N VDD VSS
    * Tail Current Source (~4mA) with degeneration for stability
    X_tail e_tail bias_tail emit_tail VSS npn13G2l m=2
    R_tail_deg emit_tail VSS 20
    C_bypass_tail bias_tail VSS 5p
    R_bias VDD bias_tail 8k
    R_bias_gnd bias_tail VSS 20k
    
    * Input AC Coupling and Bias (biased to 1.0V for optimal CML switching)
    C_in_p IN_P base_dp 100f
    C_in_n IN_N base_dn 100f
    R_bias_in_p VDD base_dp 10k
    R_bias_in_gnd_p base_dp VSS 50k
    R_bias_in_n VDD base_dn 10k
    R_bias_in_gnd_n base_dn VSS 50k
    
    * Differential Pair
    X_dp OUT_P base_dp e_tail VSS npn13G2l m=2
    X_dn OUT_N base_dn e_tail VSS npn13G2l m=2
    
    * Load Resistors (low value for high bandwidth RC pole)
    R_load_p VDD OUT_P 150
    R_load_n VDD OUT_N 150
.ends cml_buffer
